US04101667
An amount of 1.7g of 2-hydroxy-9-carboxy-10,11-dihydrodibenzo[b,f]thiepin was dissolved in 50ml of anhydrous ethanol and the mixture was refluxed for 3 hours, while hydrogen chloride gas was bubbled into the mixture. The solvent was distilled off to obtain the residue which was dissolved in the mixed solvent of ethyl acetate-benzene. The solution was washed with saturated sodium chloride solution and freed of solvent by distillation to obtain 1.6g (85%) of 2-hydroxy-9-ethoxycarbonyl-10,11-dihydrodibenzo[b,f]thiepin as brown crystals having a melting point of 125°-129° C.

reactant | 2-hydroxy-9-carboxy-10,11-dihydrodibenzo[b,f]thiepin | 1.7g | OC1=CC2=C(SC3=C(CC2)C(=CC=C3)C(=O)O)C=C1 | C15H12O3S
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 50ml | C(C)O | C2H6O
solvent | ethyl acetate benzene | C(C)(=O)OCC.C1=CC=CC=C1
product | 2-hydroxy-9-ethoxycarbonyl-10,11-dihydrodibenzo[b,f]thiepin | 1.6g, 85% | OC1=CC2=C(SC3=C(CC2)C(=CC=C3)C(=O)OCC)C=C1 | C17H16O3S
